US07632857B2
3′-Fluoro-4′-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-3-carbonitrile
The title compound is prepared in a manner substantially analogous to Procedure SS starting from (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 3-Cyanobenzene boronic acid. MS (M+H) 378.2

reactant | (4-bromo-2-fluoro-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)F | C16H20BrFN2O
reactant | 3-Cyanobenzene boronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 3′-Fluoro-4′-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-biphenyl-3-carbonitrile | FC=1C=C(C=CC1C(=O)N1[C@@H](CCC1)CN1CCCC1)C1=CC(=CC=C1)C#N | C23H24FN3O
